Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I had a follow up appointment with my psychiatrist and I 
expressed that I had thoughts of wanting to kill myself." 

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including Dr. ___ initial consultation note 
dated ___ and Dr. ___ admission note dated ___. 
.
Briefly, this is a ___ year old single ___ man, history of 
anxiety and depression with no prior suicide attempts or 
psychiatric hospitalizations, regular cannabis use, unremarkable 
past medical history, chaotic childhood, currently a first year 
___ student in ___ at ___, who 
initially presented to ___ on a ___ from his 
psychiatrist's office due to worsening depression, suicidal 
ideation in the setting of numerous psychosocial stressors and 
recently watching "13 Reasons Why." 
. 
On initial interview with Dr. ___ reported a 
history of depression and anxiety with his most recent episode 
starting several months ago with recent worsening of symptoms 
after watching Netflix's 13 Reasons Why approximately a month 
ago. Since then, patient stated he had been thinking about how 
he would kill himself and what messages he would leave to 
people,
both enemies and loved ones, when he killed himself. Patient 
stated the one thing that prevented him from killing himself is 
his connection and sense of responsibility to his mother. Mr. 
___ reported he is unsure what he needs to get better but 
stated he did not want to be dependent on medications. 
. 
Per collateral from his outpatient therapist, ___ 
(___), who is a new therapist to the patient (seen ___ 
times), patient has been forthcoming regarding passive suicidal 
ideation. She also mentioned he has a number of stressors; few 
social contacts, no family in the ___, and  that he 
dislikes his degree program. Per collateral obtained from his 
psychiatrist, Dr. ___, patient had undergone some 
additional psychosocial stressors and appeared very dysregulated 
when he saw him today. 
. 
ED Course: Patient was in good behavioral control during this 
admission and did not require physical or chemical restraints. 
. 
On my interview with Mr. ___, who was seen with ___ 
___ and Dr. ___, PGY-1 and who was able to 
provide clear and coherent history--he was able to confirm the 
history as noted above. Patient relayed a difficult childhood, 
noting he is from ___ and ___ up in a chaotic environment 
with
a mother who was abused by her in-laws and who subsequently 
abused him physically, "It's okay-- what else was she going to 
do with her anger?" Mr. ___ also noted a longstanding 
history of bullying, particularly in high school for being gay. 
In addition, patient recently came to ___ and 
started a ___ program in ___ at ___; 
he notes
he is "not passionate" about his studies and that his program is 
quite rigorous. He has found few friends at ___ and 
finds himself feeling lonely at times. 
. 
In this setting, patient reports worsening depression and 
anxiety, noting he had started seeing a therapist for the past 
month. "I've had a lot of childhood issues and things I don't 
want to think about and things I can't stop thinking about." He 
recently started watching 13 Reasons Why and identified with the
main character-- "all the reasons the girl killed herself are 
similar to mine-- the bullying and the sexual assault... I've 
been really lonely." States that "things have been building up 
and I broke down in from of my psychiatrist." 
. 
Patient reported feeling "blank" mood, stating things felt 
"confusing... I'm anxious and sad but I'm not depressed." 
Reported he has been sleeping "okay" but endorsed decreased 
appetite, denied weight loss. Reported that sleep has been 
"okay" but notes recurrent nightmares that had responded in the 
past to
prazosin. Endorsed intermittent difficulties concentrating, but 
then went on to clarify that he felt he was struggling more with 
procrastination as he does not enjoy his program but pressures 
himself to do well. Stated energy has been "okay." 
. 
Regarding his presentation, patient noted that he tends to be a 
sensitive person, "I feel intense amounts of compassion-- I see 
a homeless man and I imagine how his life would be and break 
down." Mr. ___ notes he finds his sensitivity tends to be 
exhausting and wearing on him emotionally. With regards to the 
television show, patient reported he started watching it and 
that he thought he could understand what the protagonist was 
going through because of the bullying. Reported suicidal 
ideation but without intent or plan on my examination. 
. 
On psychiatric review of systems, patient denied history of 
manic symptoms including decreased need for sleep, impulsivity, 
hypersexuality, grandiosity, excessive amounts of energy. Denied 
history of psychotic symptoms including auditory or visual 
hallucinations, paranoia. Denied ideas of reference, thought
insertion/broadcasting. Reported history of anxiety symptoms 
with panic attacks in the past. Stated he has had 3 prior panic 
attacks in the past where he had difficulty breathing, was 
shaking, shivering, and felt as if he was going to die. Notes he 
has "OCD," stating he cannot tolerate having creases on his bed
sheets and tends to be quite neat. Also notes a "phobia" of 
balloons, worrying they are going to pop. Also endorsed 
"mesophonia," in that people who are chewing loudly "bother me a 
lot." Endorsed a history of nightmares but denies 
hypervigilence, avoiding situations, flashbacks. 
. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: Unknown if formally diagnosed; patient reports
longstanding history of depressive and anxious symptoms. 
- SA/SIB: cut self ___ years ago once after boyfriend cheated on
him, denies prior suicide attempts 
- Hospitalizations: denies 
- Medication Trials: Prazosin for nightmares (helpful), Prozac
(GI side effects, sexual side effects), Zoloft (sexual side
effects) 
- Therapist: ___ (___) 
- Psychiatrist: Dr. ___ at ___ 

Past medical history:
Denies

 
Social History:
Substance use history:
- Alcohol: denies 
- Illicits: smokes marijuana 3 times a week.  
- Tobacco: former smoker, quit ___ year ago ___ ppd) 
.
Personal and Social History: Born and raised in ___ 
as the oldest of two. Raised by his parents; he states his 
father is a ___ and described him as "more practical than 
emotional," noting they would argue more when he was younger, 
but states their relationship has improved. Described his mother 
as a ___ who has "been through a lot in life and she's 
kind, a brave person, forgiving, sensitive." However, patient 
went on to describe that his mother had undergone abuse from her 
in-laws and subsequently physically abused Mr. ___ who 
states she has forgiven her for this, "what else was she 
supposed to do?" Patient's younger brother was noted to be a 
"bad kid" who did get into trouble while at home. His brother is 
currently in ___ studying ___. Patient reported 
tumultuous childhood, noting he was sexually molested by the man 
who fixed his family's computers. Reported significant bullying 
in school for being gay and states his family does not know he 
is gay at this time. Of note, ___ years ago, his uncle was 
viciously murdered with an axe, which affected him greatly. He 
did well academically in high school and college and came to the 
___ to study computer science at ___, 
although as noted above, he is not passionate about this and is 
more interested in the arts. However, notes his family has spent 
significant amounts of money for him to enroll in this program. 
He is currently enrolled in a summer course at ___ with 
the intent of returning home to ___ for a month during the 
summer. Never married, has dated in the past but described the 
relationships as dysfunctional. Denies history of legal issues. 

 
Family History:
Family psychiatric history:
- Diagnoses: none 
- Suicides: none 
- Addictions: denies  

 
Physical Exam:
General: NAD. Well-nourished, well-developed. Appears very
well-groomed with styled hair and glasses.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

NEUROLOGIC EXAMINATION:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full
-EOM: full
-Facial sensation to light touch in all 3 divisions: intact
-Facial symmetry on eye closure and smile: intact & symmetric
-Hearing bilaterally to rubbing fingers: intact
-Phonation: normal
-Shoulder shrug & head turn: normal bilaterally
-Tongue: midline, no atrophy
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. 
Strength: full power ___ throughout. 
Coordination: Able to manipulate objects across midline.
Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

COGNITIVE EXAM: 
- Wakefulness/alertness: awake and alert
- Attention: MOYB intact
- Orientation: oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): not tested
- Memory: intact to recent and past history
- Fund of knowledge: consistent with education
- Calculations: correctly states 7 quarters in $1.75
- Abstraction: apple/orange = "fruit"
- Visuospatial: not assessed
- Speech: normal rate, volume, and tone
- Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS EXAM:
- Appearance: No apparent distress, appears stated age,
- Behavior: Calm, cooperative, appropriate eye
contact, no psychomotor agitation or retardation
- Mood and Affect: "fine I guess" / euthymic, full range,
appropriate to situation, congruent with mood
- Thought Process: linear, coherent, goal-oriented. No LOA.
- Thought Content: denying active and passive SI currently.
Denies HI and AVH.
- Judgment and Insight: impaired/impaired

Discharge Examination: 
98.2  99/63  70  18  100%RA 
A/B: Appears stated age, dressed casually with excellent hygiene 
and grooming, calm, cooperative with interviewer, good eye 
contact, no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "good" 
A: slightly anxious, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair

 
Pertinent Results:
___ 03:55PM BLOOD WBC-8.1 RBC-5.50 Hgb-16.2 Hct-46.3 MCV-84 
MCH-29.5 MCHC-35.0 RDW-13.0 RDWSD-40.0 Plt ___
___ 03:55PM BLOOD Neuts-67.1 ___ Monos-5.4 Eos-1.0 
Baso-0.4 Im ___ AbsNeut-5.43 AbsLymp-2.07 AbsMono-0.44 
AbsEos-0.08 AbsBaso-0.03
___ 03:55PM BLOOD Plt ___
___ 03:45AM BLOOD K-4.9
___ 03:55PM BLOOD Glucose-100 UreaN-17 Creat-1.0 Na-139 
K-5.2* Cl-98 HCO3-28 AnGap-18
___ 03:45AM BLOOD ALT-17 AST-17 AlkPhos-66 TotBili-0.8
___ 03:45AM BLOOD VitB12-344
___ 03:45AM BLOOD TSH-1.0
___ 03:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

 
Brief Hospital Course:
This is a ___ year old single ___ man, history of anxiety and 
depression with no prior suicide attempts or psychiatric 
hospitalizations, regular cannabis use, unremarkable past 
medical history, chaotic childhood, currently a first year
___ student in ___ at ___, who 
initially presented to ___ on a ___ from his 
psychiatrist's office due to worsening depression, suicidal 
ideation in the setting of numerous psychosocial stressors and 
recently watching "13 Reasons Why." 
. 
Interview with Mr. ___ reveals a longstanding history of 
depression and anxiety in the setting of numerous significant 
ongoing stressors including an abusive mother, bullying and 
sexual molestation in childhood, loss of his uncle with 
worsening of symptoms in the setting of academic stressors and 
limited supports in the ___. 
. 
Diagnostically, patient likely does meet criteria for major 
depressive disorder at this time given his low mood, 
neurovegetative symptoms, suicidal ideation as well as
generalized anxiety disorder with panic disorder. However, given 
the longstanding nature of his symptoms, I am concerned for 
underlying character pathology at this time and believe that 
therapy will play more of a central role in his treatment rather 
than medications alone. Given his young age, I would also place 
BPAD onthe differential, although no family history or prior 
history of mania to support this. Substance use ___ also be 
playing a role, although patient states he only smokes cannabis 
on the weekends to treat his anxiety. Nothing in his history to 
suggest a prior history of psychosis that would be consistent 
with schizophrenia or schizoaffective. Finally, although patient 
has a history of trauma with nightmares, he denies other 
symptoms that would meet criteria for PTSD. 
. 
- Major depressive disorder, recurrent, moderate to severe, 
without psychotic features
- Generalized anxiety disorder

#. Legal/Safety: patient was admitted to ___ on a 
___, upon admission, declined to sign a conditional 
voluntary form, stating he wanted to be discharged as soon as 
possible. He maintained excellent behavioral control throughout 
his admission, maintaining his safety throughout his admission 
on 15 minute checks. He did not require physical or chemical 
restraints. Of note, given his consistent denial of suicidal 
ideation or thoughts of self harm, compliance with treatment, 
and thought process that was notably linear, goal and future 
oriented with plan of following up with outpatient treaters, I 
did not feel keeping him in the hospital to the expiration of 
his 3 day would be beneficial in his treatment and he did not 
meet criteria to file a section 7&8b. 
. 
#. Major depressive disorder, recurrent, severe, without 
psychotic features 
- Patient was compliant in attending groups, where he 
participated appropriately. He was compliant in meeting with his 
treatment team and participated actively in his care.  
- Patient declined permission for us to talk with his family 
members, stating he would prefer to protect his privacy at this 
time. 
- Discussed the risks and benefits of starting Wellbutrin, as 
patient wished to avoid sexual side effects. He tolerated this 
medication well with no complaints of side effects-- recommend 
continuing to uptitrate this medication as an outpatient as 
clinically indicated and as tolerated.
- Patient consistently denied suicidal ideation or thoughts of 
self harm throughout his psychiatric hospitalization. In the 
setting of the stabilizing environment of the milieu, he 
reported improvement in his depression and anxiety and stated he 
had gained perspective on his life, "people have it so much 
worse than I do and I have a lot to live for." At time of 
discharge was notably goal and future oriented, stating he 
wanted to follow up with outpatient treaters and continue 
treatment. 
. 
#. Anxiety: as noted above, with history of panic attacks and 
nightmares. 
- For nightmares, after discussion of the risks and benefits, 
patient was initially restarted on Prazosin 2 mg po qhs. 
However, patient stated he no longer wished to take this 
medication, as he felt it made him feel tired and so prazosin 
was discontinued prior to his discharge. 
- For anxiety, patient was initially started on Vistaril ___ m po 
q6h prn anxiety, however, patient found this medication was too 
sedating and did not want to try a lower dose. Discussed the 
risks and benefits of low dose Ativan, although patient 
initially declined. Agreed that given the risk of tolerance and 
dependence, this would be a short term medication and I provided 
him a script for Ativan 0.5 mg po bid prn anxiety and insomnia. 
Recommend once his symptoms are stabilized, that Ativan be 
titrated off/discontinued. 
.
#. Cannabis Use: With patient reporting use on the weekends to 
treat anxiety
- Provided psychoeducation on the risks and benefits of cannabis 
use, patient was contemplative on stopping his cannabis use and 
stated he would continue to think about stopping. He will follow 
up with his outpatient treaters for further evaluation and 
management of his cannabis use. 

 
Medications on Admission:
None 
 
Discharge Medications:
1.  BuPROPion 37.5 mg PO DAILY 
RX *bupropion HCl 75 mg 0.5 (One half) tablet(s) by mouth daily 
Disp #*7 Tablet Refills:*0 
2.  LORazepam 0.5 mg PO BID PRN anxiety  
RX *lorazepam [Ativan] 0.5 mg 1 tablet(s) by mouth twice a day 
Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Major depressive disorder, recurrent, severe, without 
psychotic
features 
- Generalized Anxiety Disorder 
- Cannabis use disorder 

 
Discharge Condition:
98.2   99/63   70   18   100%RA    
A/B: Appears stated age, dressed casually with excellent hygiene 
and grooming, calm, cooperative with interviewer, good eye 
contact, no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'good' 
A: slightly anxious, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair  

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___